US04416876
4-(4,4-Dimethyl-4-sila-n-hexadecylamino)-benzoic acid
To 11.50 g (26.5 mmol) of ethyl-4-(4,4-dimethyl-4-sila-n-hexadecylamino)-benzoate in 150 ml of freshly distilled 2-methoxy-ethanol (peroxide free) refluxing under nitrogen, is gradually added a solution of 10.0 g (approx. 161 mmol) of potassium hydroxide in 17 ml of water. After the addition, refluxing is continued for 45 mins. Then 15 ml (250 mmol) of acetic acid (100%) is added and the reaction mixture cooled. Toluene is then added and the mixture agitated. The organic phase is recovered, washed with 4 portions of water, dried over anh. sodium sulfate, filtered and the filtrate evaporated to yield crude title product as a semi-solid residue, which upon recrystallization from heptane-hexane (50/50) gives refined title product, m.p. (88)--89°-90°.

reactant | ethyl-4-(4,4-dimethyl-4-sila-n-hexadecylamino)-benzoate | 26.5 mmol, 11.50 g | C(C)OC(C1=CC=C(C=C1)NCCC[Si](CCCCCCCCCCCC)(C)C)=O | C26H47NO2Si
reactant | 2-methoxy-ethanol | COCCO | C3H8O2
reactant | potassium hydroxide | approx. 161 mmol, 10.0 g | [OH-].[K+]
reactant | acetic acid | 250 mmol, 15 ml | C(C)(=O)O | C2H4O2
solvent | water | 17 ml | O | H2O
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(4,4-Dimethyl-4-sila-n-hexadecylamino)-benzoic acid | C[Si](CCCNC1=CC=C(C(=O)O)C=C1)(CCCCCCCCCCCC)C | C24H43NO2Si
